US07855297B2
To a solution of N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.99 g) in methylene chloride (10 mL) were added tetra-n-butylammonium hydrogensulfate (0.82 g), 2-chloromethyl-4-methylpyridine hydrochloride (0.86 gland 1 mol/L-aqueous sodium hydroxide solution (24.0 mL). The mixture was stirred at room temperature for one day. The reaction mixture was partitioned between water and chloroform. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography to give N-(6-isopropylpyridin-3-yl)-N-({1-[(4-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide. This compound was dissolved in ethyl acetate, and 4 mol/L-HCl/dioxane (2.4 mL) was added. The precipitated solid was collected by filtration to give N-(6-isopropylpyridin-3-yl)-N-({1-[(4-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide dihydrochloride (0.61 g).

reactant | N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.99 g | Cl.C(C)(C)C1=CC=C(C=N1)N(C(=O)C1CCCC2=CC=CC=C12)CC=1C=NNC1
reactant | 2-chloromethyl-4-methylpyridine hydrochloride | Cl.ClCC1=NC=CC(=C1)C
reactant | sodium hydroxide | 24.0 mL | [OH-].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | tetra-n-butylammonium hydrogensulfate | 0.82 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | N-(6-isopropylpyridin-3-yl)-N-({1-[(4-methylpyridin-2-yl)methyl]pyrazol-4-yl}methyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | C(C)(C)C1=CC=C(C=N1)N(C(=O)C1CCCC2=CC=CC=C12)CC=1C=NN(C1)CC1=NC=CC(=C1)C | C30H33N5O
